US05432169
To a solution of 0.40 g of 3β-(3-carbethoxyprop-2-enoxy)-17β-(3-furyl)-5β-androstan-14β-ol in 30 ml of anhydrous tetrahydrofuran, 2 ml of sodium bis(2-methoxyethoxy)aluminum hydride (solution 3.4 M in toluene) were added at room temperature. The solution was kept at reflux temperature for 8 hrs, then 10 ml of water were added and the organic solution was evaporated to dryness under reduced pressure. The residue was extracted with ethyl acetate and the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography using n-hexane/ethyl acetate 70/30 as eluant to give 0.30 g of 3β-(4-hydroxybutoxy)-17β-(3-furyl)-5β-androstan-14β-ol, as a white pasty solid.

reactant | 3β-(3-carbethoxyprop-2-enoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.40 g | C(=O)(OCC)C=CCO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C29H42O5
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | sodium bis(2-methoxyethoxy)aluminum hydride | 3.4 M, 2 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
product | 3β-(4-hydroxybutoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.30 g | OCCCCO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C27H42O4
